US03992440
The starting material is prepared as follows: To the solution of 3.81 g of 4-(4-acetamidophenylmercapto)-3-amino-5-sulfamoylbenzoic acid in 25 ml of water and about 2 ml of 4 N aqueous lithium hydroxide (to adjust the pH to7.2), the solution of 2 g of 2-methylallyliodide in 2 ml of ethanol is added at room temperature while stirring and maintaining the pH between 6.7 and 7.0 with lithium hydroxide, and diluting the mixture with 10 ml ofethanol. After 23 hours (and the consumption of about 65% of the theoretical amount of lithium hydroxide) the mixture is washed with diethyl ether and acidified with hydrochloric acid. The precipitate formedis filtered off and recrystallized from aqueous ethanol, to yield the 4-(4-acetamidophenylmercapto)-3-(2-methylallylamino)-5-sulfamoylbenzoic acid melting at 193°-195°.

reactant | 4-(4-acetamidophenylmercapto)-3-amino-5-sulfamoylbenzoic acid | 3.81 g | C(C)(=O)NC1=CC=C(C=C1)SC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)N | C15H15N3O5S2
reactant | 2-methylallyliodide | 2 g | CC(CI)=C | C4H7I
solvent | water | 25 ml | O | H2O
solvent | lithium hydroxide | 4 N, about 2 ml | [OH-].[Li+]
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 4-(4-acetamidophenylmercapto)-3-(2-methylallylamino)-5-sulfamoylbenzoic acid | C(C)(=O)NC1=CC=C(C=C1)SC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)NCC(=C)C | C19H21N3O5S2
